US06727264B1
N-{3-[1-(2,3-DIHYDRO-1,4-BENZODIOXIN-6-YLMETHYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure F and Scheme R using 2,3-dihydro-1,4-benzodioxine-6-carbaldehyde and 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide: ESMS m/e: 395.1 (M+H)+.

reactant | 2,3-dihydro-1,4-benzodioxine-6-carbaldehyde | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | 2-methyl-N-[3-(4-piperidinyl)phenyl]propanamide | CC(C(=O)NC1=CC(=CC=C1)C1CCNCC1)C | C15H22N2O
product | N-{3-[1-(2,3-DIHYDRO-1,4-BENZODIOXIN-6-YLMETHYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | O1CCOC2=C1C=CC(=C2)CN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O | C24H30N2O3
